US07737166B2
tert-Butyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)carbamate (I-195)
(3S)-3-(Dimethylamino)pyrrolidine (180 μl, 1.42 mmol) and triethylamine (238 μl, 1.70 mmol) were added to a dimethyl sulfoxide (5 ml) solution of tert-butyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]carbamate (I-194) (400 mg, 0.947 mmol), followed by stirring in an oil bath at 130° C. for 3 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform (100 ml) and washed with saturated brine (100 ml). After drying over anhydrous sodium sulfate and concentration, the resulting residue was purified by silica gel column chromatography (eluent, chloroform:methanol=10:1) to obtain the entitled compound (260 mg, 53.2%) as a colorless solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 1.42 mmol, 180 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 1.70 mmol, 238 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]carbamate | 0.947 mmol, 400 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)NC(OC(C)(C)C)=O)F)C2=CC=CC=C2)C | C23H23FN4O3
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | tert-Butyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)carbamate | 260 mg, 53.2% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)NC(OC(C)(C)C)=O)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C29H36N6O3
